US08013003B2
Prepared from N-methylaniline and [2,1,3]-benzoxadiazole-5-carbonylchloride using the procedure described for Example 7. N-Methyl-N-phenyl-[2,1,3]-benzoxadiazole-5-carboxamide was isolated as a yellow oil. LC-MS, MH+=254; 1H NMR (300 MHz, CDCl3) δ 7.74 (s, 1H); 7.64 (d, 1H, J=9.6 Hz); 7.34 (d, 1H, J=9.6 Hz); 7.29-7.09 (m, 5H); 3.54 ppm (s, 3H).

reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
product | N-Methyl-N-phenyl-[2,1,3]-benzoxadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1=CC=CC=C1 | C14H11N3O2
